US04340730
A mixture of 5.05 gm (43.1 mmole) of 5-aminopentanoic acid, 23.3 gm (86.1 mmole) of stearyl alcohol, and 12.0 gm (63.1 mmole) of p-toluenesulfonic acid monohydrate in 200 ml of toluene was heated at reflux, using a Dean-Stark trap to remove water. After 90 minutes, the solution was allowed to cool to 0° C., giving a heavy gelatinous precipitate. The crude ester was collected, washed thoroughly with toluene, triturated with diethyl ether, and dried in vacuo to give 21.1 gm (38.8 mmole) of fluffy white octadecyl 5-aminopentanoate as the tosylate salt. The ester was sufficiently pure according to nmr spectroscopy (in (CD3)2SO) for subsequent use without further purification.

reactant | 5-aminopentanoic acid | 43.1 mmole, 5.05 gm | NCCCCC(=O)O | C5H11NO2
reactant | stearyl alcohol | 86.1 mmole, 23.3 gm | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | p-toluenesulfonic acid monohydrate | 63.1 mmole, 12.0 gm | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | octadecyl 5-aminopentanoate | 38.8 mmole, 21.1 gm | NCCCCC(=O)OCCCCCCCCCCCCCCCCCC | C23H47NO2
